* File: NA6X1.pex.netlist.pex
* Created: Mon Jun  5 13:13:24 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA6X1%D_VDD 1 4 9 10 15 16 21 22 27 44 45 46 47 48
c54 48 0 0.302997f
c55 47 0 0.0530848f
c56 46 0 0.128215f
c57 45 0 0.0886439f
c58 44 0 0.0590138f
c59 35 0 0.0701213f
c60 34 0 0.0467475f
c61 22 0 0.431428f
c62 21 0 0.125578f
c63 16 0 0.284319f
c64 15 0 0.0897761f
c65 10 0 0.29138f
c66 9 0 0.0898108f
c67 4 0 0.431841f
c68 1 0 0.551897f
r69 47 68 0.0361147
r70 47 67 0.0450621
r71 46 67 0.283333
r72 44 61 0.0566888
r73 36 48 0.160556
r74 23 35 0.0329425
r75 22 27 0.17
r76 21 35 0.0120155
r77 21 68 0.132222
r78 17 34 0.0231002
r79 16 35 0.0329425
r80 15 34 0.0225187
r81 14 45 0.0566888
r82 14 15 0.184167
r83 10 34 0.0231002
r84 9 61 0.184167
r85 1 36 0.0120155
r86 1 22 0.0329425
r87 1 28 0.0329425
r88 1 9 0.0225187
r89 1 4 0.0231002
r90 1 11 0.0231002
r91 1 28 0.102
r92 1 27 0.0595
r93 1 23 0.136
r94 1 16 0.1955
r95 1 17 0.06375
r96 1 10 0.15725
r97 1 11 0.1105
r98 1 4 0.246415
.ends

.subckt PM_NA6X1%OUT1 2 4 5 6 9 11 13 14 15 16 18 23 24 25 26 27 29 34 36 37 43
+ 46 49 50 54 67
c156 67 0 0.0196168f
c157 54 0 0.182184f
c158 50 0 0.0653975f
c159 49 0 0.141712f
c160 46 0 0.168852f
c161 43 0 0.0671668f
c162 37 0 0.167205f
c163 36 0 0.0198397f
c164 34 0 0.0994721f
c165 29 0 0.0478482f
c166 27 0 0.0477503f
c167 26 0 0.00309932f
c168 25 0 0.00769721f
c169 24 0 0.0898223f
c170 23 0 0.0287144f
c171 18 0 0.0839981f
c172 16 0 0.14786f
c173 15 0 0.340904f
c174 14 0 0.20083f
c175 11 0 0.521467f
c176 9 0 0.2187f
c177 6 0 0.0643803f
c178 5 0 0.185938f
c179 4 0 0.111029f
r180 54 55 11.2726
r181 50 67 0.0566888
r182 46 58 5.55556
r183 45 46 7
r184 43 45 0.136252
r185 41 54 11.8421
r186 40 41 7
r187 37 53 15.2843
r188 36 37 7
r189 33 49 0.103889
r190 33 34 0.0297796
r191 29 40 0.0613889
r192 28 43 0.000495285
r193 28 29 0.17
r194 26 27 0.122822
r195 24 36 0.0519666
r196 24 25 0.368333
r197 23 26 0.0500053
r198 22 25 0.0474919
r199 22 23 0.0991667
r200 20 67 0.085
r201 19 34 0.015029
r202 18 20 0.0474919
r203 18 19 0.410833
r204 17 32 0.0193515
r205 16 27 0.034
r206 16 17 0.694167
r207 15 34 0.0297796
r208 14 32 0.0374616
r209 14 15 0.878333
r210 11 58 6.3741
r211 11 13 141.667
r212 9 55 37.5
r213 5 54 7.02029
r214 5 6 60.4167
r215 4 6 13.9682
r216 4 53 33.3333
r217 2 32 0.115
.ends

.subckt PM_NA6X1%D_GND 1 5 6 7 16 19 22 24 27 30 34
c52 34 0 0.0819355f
c53 31 0 0.0467475f
c54 30 0 0.324005f
c55 27 0 0.081089f
c56 24 0 0.0467475f
c57 22 0 0.584762f
c58 20 0 0.0467475f
c59 19 0 0.53915f
c60 16 0 0.0793094f
c61 7 0 0.0546901f
c62 6 0 0.0693483f
c63 5 0 0.0863943f
c64 1 0 0.453141f
r65 30 31 0.0231002
r66 29 31 0.0231002
r67 22 24 0.0231002
r68 21 24 0.0231002
r69 19 20 0.0231002
r70 18 20 0.0231002
r71 12 31 0.0225187
r72 12 34 0.155833
r73 10 24 0.0225187
r74 10 27 0.155833
r75 8 20 0.0225187
r76 8 16 0.155833
r77 7 34 0.0519666
r78 6 27 0.0519666
r79 5 16 0.061411
r80 1 29 0.12325
r81 1 30 0.23375
r82 1 21 0.07225
r83 1 22 0.14875
r84 1 18 0.14025
r85 1 19 0.216665
.ends

.subckt PM_NA6X1%OUT2 2 3 5 7 10 14 17 18 23 24 29 30 31 33 38 39 43
c103 43 0 0.111997f
c104 38 0 0.0681857f
c105 33 0 0.0138994f
c106 31 0 0.0500506f
c107 30 0 0.0618604f
c108 29 0 0.0613276f
c109 24 0 0.0564077f
c110 23 0 0.035393f
c111 18 0 0.0260728f
c112 17 0 0.119528f
c113 14 0 0.174655f
c114 10 0 0.20578f
c115 7 0 0.104241f
c116 3 0 0.880523f
r117 39 43 0.00486827
r118 33 34 7
r119 30 31 0.0852958
r120 25 30 0.0442415
r121 24 33 0.0519666
r122 24 25 0.134583
r123 23 43 0.21177
r124 22 30 0.0164516
r125 22 23 0.043871
r126 20 31 0.184167
r127 18 20 0.0474919
r128 18 29 0.0991667
r129 17 38 0.0566888
r130 16 43 0.0204353
r131 16 17 0.354167
r132 12 14 37.5
r133 8 14 1.46822
r134 8 10 37.5
r135 7 34 40.3671
r136 6 12 1.46822
r137 6 7 35.4167
r138 3 34 15.2162
r139 3 5 143.75
r140 2 29 0.0519666
.ends

.subckt PM_NA6X1%N$108 2 7 11 14 15 16 17 19 20 28 30 32
c67 32 0 0.0874455f
c68 30 0 0.260633f
c69 28 0 0.160175f
c70 20 0 0.0242195f
c71 19 0 0.0292419f
c72 17 0 0.0663706f
c73 16 0 0.0279447f
c74 15 0 0.133792f
c75 14 0 0.0807707f
c76 11 0 0.211747f
c77 7 0 0.959626f
c78 2 0 0.0806732f
r79 28 33 15.22
r80 28 32 15.22
r81 27 28 7
r82 25 27 0.130102
r83 21 30 0.0944444
r84 19 27 0.0536826
r85 19 20 0.262083
r86 17 25 0.0160664
r87 17 18 0.141667
r88 16 21 0.0500053
r89 15 20 0.0474919
r90 15 16 0.417917
r91 14 32 31.25
r92 13 14 23.0385
r93 11 13 37.5
r94 7 33 289.583
r95 2 18 0.124593
.ends

.subckt PM_NA6X1%OUT 2 6 12 13 16 20
c15 20 0 0.125262f
c16 13 0 0.122182f
c17 12 0 0.0984973f
c18 6 0 0.480297f
c19 2 0 0.101781f
r20 16 20 0.0255
r21 12 14 0.0519666
r22 12 13 0.0519666
r23 10 13 0.23375
r24 6 20 0.025958
r25 6 14 0.91375
r26 2 10 0.0519666
.ends

.subckt PM_NA6X1%B 5 8 10 11 13 16 18 21 24
c46 24 0 0.156847f
c47 21 0 0.0356681f
c48 18 0 0.0366041f
c49 16 0 0.14694f
c50 13 0 0.0595012f
c51 11 0 0.319924f
c52 10 0 0.0884977f
c53 8 0 0.424277f
r54 24 30 15.2843
r55 21 25 0.0519666
r56 21 24 7
r57 16 28 15.2843
r58 15 18 0.0187944
r59 15 16 7
r60 13 18 0.0216719
r61 13 25 0.290417
r62 10 11 18.7188
r63 10 28 29.1667
r64 8 30 133.333
r65 5 11 41.6667
.ends

.subckt PM_NA6X1%A 2 5 6 7 9 10 12 13 14 17 20 25
c51 25 0 0.232507f
c52 20 0 0.0405196f
c53 17 0 0.148241f
c54 14 0 0.10121f
c55 13 0 0.244429f
c56 10 0 0.232188f
c57 9 0 0.22578f
c58 7 0 0.0773482f
c59 6 0 0.242289f
c60 2 0 0.340333f
r61 23 25 15.8898
r62 20 23 7
r63 15 17 29.1667
r64 13 14 17.6176
r65 10 17 1.46822
r66 10 12 41.6667
r67 9 15 1.46822
r68 8 25 6.94451
r69 8 9 81.25
r70 6 25 11.2516
r71 6 7 79.1667
r72 5 13 56.25
r73 2 7 13.9682
r74 2 14 118.75
.ends

.subckt PM_NA6X1%E 1 3 5 9 10 12 15 17 21 24 27 30
c56 30 0 0.098715f
c57 27 0 0.143498f
c58 24 0 0.0231349f
c59 21 0 0.14343f
c60 17 0 0.290847f
c61 15 0 0.145501f
c62 10 0 0.231639f
c63 9 0 0.259341f
c64 5 0 0.147337f
c65 1 0 0.241442f
r66 27 31 15.2843
r67 27 30 15.2843
r68 24 27 7
r69 19 21 22.9167
r70 17 18 42.3177
r71 13 15 25
r72 10 21 1.46822
r73 10 12 41.6667
r74 9 19 1.46822
r75 9 31 81.25
r76 6 18 4.47835
r77 6 30 31.25
r78 5 17 4.47835
r79 4 15 1.46822
r80 4 5 50
r81 1 13 1.46822
r82 1 3 56.25
.ends

.subckt PM_NA6X1%D 3 6 7 9 12 15 23
c44 23 0 0.16357f
c45 15 0 0.0201715f
c46 12 0 0.160802f
c47 7 0 0.231637f
c48 6 0 0.259997f
c49 3 0 0.640728f
r50 18 23 4.16667
r51 18 20 6.94444
r52 15 18 7
r53 10 12 22.9167
r54 7 12 1.46822
r55 7 9 41.6667
r56 6 10 1.46822
r57 5 23 6.3741
r58 5 6 81.25
r59 1 20 6.3741
r60 1 3 204.167
.ends

.subckt PM_NA6X1%F 3 5 7 8 10 11 16 18 19 20
c51 20 0 0.0858611f
c52 19 0 0.416395f
c53 18 0 0.0401312f
c54 11 0 0.142926f
c55 10 0 0.0739526f
c56 8 0 0.00376653f
c57 5 0 0.229065f
c58 3 0 0.338351f
r59 18 20 0.0519666
r60 18 19 7
r61 14 16 0.0300032
r62 14 20 0.255
r63 11 23 15.2843
r64 10 11 7
r65 8 16 0.0200021
r66 8 10 0.0944444
r67 5 19 37.9979
r68 5 7 41.6667
r69 3 23 85.4167
.ends

.subckt PM_NA6X1%C 1 3 4 5 6 8 10 11 12 14 18
c65 18 0 0.0236081f
c66 14 0 0.370113f
c67 12 0 0.0725632f
c68 11 0 0.265087f
c69 10 0 0.528247f
c70 6 0 0.214137f
c71 5 0 0.230662f
c72 4 0 0.14673f
c73 1 0 0.248079f
r74 21 23 18.279
r75 18 21 7
r76 13 14 120.833
r77 11 14 13.9682
r78 11 12 58.3333
r79 10 13 42.1654
r80 9 10 45.8333
r81 6 12 13.9682
r82 6 8 41.6667
r83 5 21 15.3086
r84 4 9 13.9682
r85 4 5 29.1667
r86 1 23 6.22724
r87 1 3 56.25
.ends

