* File: NO4X1.pex.netlist
* Created: Mon Jun  5 13:15:04 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "NO4X1.pex.netlist.pex"
.subckt NO4X1  D_VDD D_GND OUT B A C D
* 
* D	D
* C	C
* A	A
* B	B
* OUT	OUT
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM1 N_OUT1_M_ENM1_d N_A_M_ENM1_g N_D_GND_M_ENM1_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=8.85e-13 PD=4.8e-06 PS=2.9e-06 NRD=2.14062
+ NRS=1.38281
M_ENM2 N_OUT1_M_ENM2_d N_B_M_ENM2_g N_D_GND_M_ENM2_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=1.37e-12 PD=4.8e-06 PS=4.8e-06 NRD=2.14062
+ NRS=2.14062
M_ENM3 N_OUT2_M_ENM3_d N_C_M_ENM3_g N_D_GND_M_ENM1_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=8.85e-13 PD=2.6e-06 PS=2.9e-06 NRD=1.19531
+ NRS=1.38281
M_ENM4 N_OUT2_M_ENM3_d N_D_M_ENM4_g N_D_GND_M_ENM4_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=7.65e-13 PD=2.6e-06 PS=2.6e-06 NRD=1.19531
+ NRS=1.19531
M_ENM6 N$74 N_OUT2_M_ENM6_g N_D_GND_M_ENM4_s N_D_GND_M_ENM1_b enm L=6e-07
+ W=8e-07 AD=2.4e-13 AS=7.65e-13 PD=1.4e-06 PS=2.6e-06 NRD=0.375 NRS=1.19531
M_ENM5 N_OR_M_ENM5_d N_OUT1_M_ENM5_g N$74 N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=1.37e-12 AS=2.4e-13 PD=4.8e-06 PS=1.4e-06 NRD=2.14062 NRS=0.375
M_ENM7 N_OUT_M_ENM7_d N_OR_M_ENM7_g N_D_GND_M_ENM7_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=1.37e-12 PD=4.8e-06 PS=4.8e-06 NRD=2.14062
+ NRS=2.14062
M_EPM1 N_OUT1_M_EPM1_d N_B_M_EPM1_g N$14 N_D_VDD_M_EPM1_b epm L=6e-07 W=3.2e-06
+ AD=3.84e-12 AS=9.6e-13 PD=8.8e-06 PS=3.8e-06 NRD=0.375 NRS=0.09375
M_EPM2 N$14 N_A_M_EPM2_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM1_b epm L=6e-07 W=3.2e-06
+ AD=9.6e-13 AS=2.08e-12 PD=3.8e-06 PS=4.5e-06 NRD=0.09375 NRS=0.203125
M_EPM4 N$25 N_C_M_EPM4_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM1_b epm L=6e-07 W=3.2e-06
+ AD=9.6e-13 AS=2.08e-12 PD=3.8e-06 PS=4.5e-06 NRD=0.09375 NRS=0.203125
M_EPM3 N_OUT2_M_EPM3_d N_D_M_EPM3_g N$25 N_D_VDD_M_EPM1_b epm L=6e-07 W=3.2e-06
+ AD=3.84e-12 AS=9.6e-13 PD=8.8e-06 PS=3.8e-06 NRD=0.375 NRS=0.09375
M_EPM6 N_OR_M_EPM6_d N_OUT2_M_EPM6_g N_D_VDD_M_EPM6_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=8e-07 AD=1.0475e-12 AS=1.31667e-12 PD=3.35e-06 PS=3.13333e-06
+ NRD=1.63672 NRS=2.05729
M_EPM5 N_OR_M_EPM6_d N_OUT1_M_EPM5_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=8e-07 AD=1.0475e-12 AS=1.37e-12 PD=3.35e-06 PS=4.8e-06 NRD=1.63672
+ NRS=2.14062
M_EPM7 N_OUT_M_EPM7_d N_OR_M_EPM7_g N_D_VDD_M_EPM6_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=2.63333e-12 PD=5.6e-06 PS=6.26667e-06
+ NRD=0.75 NRS=1.02865
*
.include "NO4X1.pex.netlist.NO4X1.pxi"
*
.ends
*
*
