* File: NO2X1.pex.netlist.pex
* Created: Mon Jun  5 13:13:58 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NO2X1%D_VDD 1 16
c6 16 0 0.335805f
c7 14 0 0.0701213f
c8 4 0 0.287219f
c9 1 0 0.576549f
r10 13 16 0.288056
r11 13 14 0.0120155
r12 8 14 0.0329425
r13 4 14 0.0329425
r14 1 8 0.374
r15 1 4 0.12325
.ends

.subckt PM_NO2X1%D_GND 1 4 5 15 21
c10 16 0 0.24436f
c11 15 0 0.307243f
c12 5 0 0.205391f
c13 4 0 0.236951f
c14 1 0 0.329311f
r15 19 21 0.068
r16 16 28 0.03825
r17 6 28 0.00941327
r18 5 10 0.155833
r19 4 6 0.155833
r20 1 10 0.0120155
r21 1 15 0.0329425
r22 1 19 0.0329425
r23 1 28 0.08075
r24 1 21 0.0425
r25 1 15 0.24225
r26 1 16 0.03825
.ends

.subckt PM_NO2X1%OUT 2 7 8 12 14
c22 14 0 0.313416f
c23 12 0 0.542177f
c24 8 0 0.0657221f
c25 7 0 0.191819f
c26 2 0 0.0985908f
r27 14 17 0.0418451
r28 12 17 0.377778
r29 9 12 0.193611
r30 7 9 0.0474919
r31 7 8 0.179444
r32 3 8 0.0474919
r33 2 3 0.113333
.ends

.subckt PM_NO2X1%A 3 6 9 13 16 19
c16 19 0 0.237741f
c17 16 0 0.0482993f
c18 13 0 0.200043f
c19 9 0 0.423545f
c20 6 0 0.175274f
c21 3 0 0.640728f
r22 19 21 18.0556
r23 16 19 7
r24 11 13 35.4167
r25 7 13 1.46822
r26 7 9 116.667
r27 6 11 1.46822
r28 5 21 6.3741
r29 5 6 52.0833
r30 1 21 6.3741
r31 1 3 160.417
.ends

.subckt PM_NO2X1%B 3 7 10 13 16 19
c22 19 0 0.143438f
c23 16 0 0.0245975f
c24 13 0 0.120614f
c25 10 0 0.166714f
c26 7 0 0.589655f
c27 3 0 0.424526f
r28 19 23 15.2843
r29 19 22 15.2843
r30 16 19 7
r31 11 13 14.5833
r32 10 13 1.46822
r33 10 23 52.0833
r34 7 22 160.417
r35 1 11 1.46822
r36 1 3 116.667
.ends

