* File: NO3X1.pex.netlist.pex
* Created: Mon Jun  5 13:14:33 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NO3X1%D_VDD 1 4 14 19
c15 19 0 0.178999f
c16 17 0 0.0701213f
c17 14 0 0.937654f
c18 4 0 0.327235f
r19 16 19 0.207778
r20 16 17 0.0120155
r21 8 17 0.0329425
r22 4 17 0.0329425
r23 1 14 0.14025
r24 1 8 0.17425
r25 1 4 0.15725
.ends

.subckt PM_NO3X1%D_GND 1 4 5 21 26
c15 21 0 0.313719f
c16 16 0 0.0701213f
c17 15 0 0.340792f
c18 5 0 0.163052f
c19 4 0 0.234356f
c20 1 0 0.694339f
r21 24 26 0.0425
r22 15 16 0.0329425
r23 14 16 0.0329425
r24 6 16 0.0120155
r25 5 10 0.146389
r26 4 6 0.146389
r27 1 10 0.0120155
r28 1 21 0.0329425
r29 1 24 0.0329425
r30 1 26 0.19975
r31 1 21 0.22525
r32 1 14 0.05525
r33 1 15 0.1615
.ends

.subckt PM_NO3X1%Out 3 4 9 10 18 22 24 26
c30 26 0 0.129359f
c31 24 0 0.108205f
c32 22 0 0.132995f
c33 18 0 0.290148f
c34 10 0 0.0556872f
c35 9 0 0.13763f
c36 4 0 0.160364f
c37 3 0 0.103291f
r38 20 26 0.250278
r39 19 22 0.0566667
r40 19 20 0.00499195
r41 16 22 0.00499195
r42 16 18 0.132222
r43 15 24 0.0359928
r44 15 18 0.179444
r45 11 24 0.0359928
r46 9 24 0.00935391
r47 9 10 0.311667
r48 5 10 0.0474919
r49 4 11 0.122778
r50 3 5 0.122778
.ends

.subckt PM_NO3X1%N$41 1 6 7 11
c19 11 0 0.0765608f
c20 7 0 0.119325f
c21 6 0 0.198788f
c22 2 0 0.130924f
c23 1 0 0.104842f
r24 7 11 0.0269941
r25 7 11 0.0330556
r26 3 6 0.146389
r27 2 3 0.0487635
r28 1 7 0.0217694
r29 1 2 0.2125
.ends

.subckt PM_NO3X1%N$49 1 2 7 8
c12 8 0 0.206915f
c13 7 0 0.21757f
c14 2 0 0.0392905f
c15 1 0 0.14948f
r16 4 8 0.1275
r17 3 7 0.193611
r18 2 3 0.0480042
r19 1 4 0.0480042
r20 1 2 0.34
.ends

.subckt PM_NO3X1%A 1 3 4 5 8 11 12 14 15 17 24
c24 24 0 0.242169f
c25 17 0 0.0735359f
c26 15 0 0.0595022f
c27 12 0 0.293886f
c28 11 0 0.380045f
c29 8 0 0.619094f
c30 5 0 0.0715564f
c31 4 0 0.134362f
c32 1 0 0.285852f
r33 20 24 20.8333
r34 17 20 7
r35 12 15 10.5861
r36 12 14 58.3333
r37 11 15 10.5861
r38 10 24 6.3741
r39 10 11 118.75
r40 6 24 6.3741
r41 6 8 152.083
r42 4 15 2.75115
r43 4 5 50
r44 1 5 13.9682
r45 1 3 58.3333
.ends

.subckt PM_NO3X1%B 3 7 10 13 18
c26 18 0 0.196205f
c27 13 0 0.0761559f
c28 7 0 0.636271f
c29 3 0 0.569257f
r30 14 18 13.8889
r31 13 14 7
r32 10 13 0.085
r33 5 18 6.3741
r34 5 7 152.083
r35 1 18 6.3741
r36 1 3 152.083
.ends

.subckt PM_NO3X1%C 3 7 10 11 15 17 19 22
c29 22 0 0.147953f
c30 19 0 0.0292024f
c31 17 0 0.0659502f
c32 15 0 0.317819f
c33 11 0 0.230271f
c34 10 0 0.257472f
c35 7 0 0.545825f
c36 3 0 0.323803f
r37 22 26 15.2843
r38 22 25 15.2843
r39 19 22 7
r40 13 15 70.8333
r41 12 17 2.75115
r42 11 13 13.9682
r43 11 12 50
r44 10 17 10.5861
r45 10 26 85.4167
r46 7 25 152.083
r47 1 17 10.5861
r48 1 3 70.8333
.ends

